### PR TITLE
[Merged by Bors] - chore(Combinatorics): fix whitespace

### PR DESCRIPTION
**Pull request by harahu**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Matroid/Basic.lean [hunk 1]
```diff
@@ -665,7 +665,7 @@ theorem Indep.exists_insert_of_not_isBase (hI : M.Indep I) (hI' : ¬M.IsBase I)
   obtain ⟨x, hxB', hx⟩ := exists_of_ssubset (hIB'.ssubset_of_ne (by (rintro rfl; exact hI' hB')))
   by_cases hxB : x ∈ B
   · exact ⟨x, ⟨hxB, hx⟩, hB'.indep.subset (insert_subset hxB' hIB')⟩
-  obtain ⟨e,he, hBase⟩ := hB'.exchange hB ⟨hxB',hxB⟩
+  obtain ⟨e, he, hBase⟩ := hB'.exchange hB ⟨hxB',hxB⟩
```
Comment (grunweg) [inline Mathlib/Combinatorics/Matroid/Basic.lean]: Shouldn't the second list also have a space added?

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean [hunk 2]
```diff
@@ -282,7 +282,7 @@ theorem kruskal_katona (h𝒜r : (𝒜 : Set (Finset (Fin n))).Sized r) (h𝒞
 /-- An iterated form of the Kruskal-Katona theorem. In particular, the minimum possible iterated
 shadow size is attained by initial segments. -/
 theorem iterated_kk (h₁ : (𝒜 : Set (Finset (Fin n))).Sized r) (h₂ : #𝒞 ≤ #𝒜) (h₃ : IsInitSeg 𝒞 r) :
-    #(∂^[k] 𝒞) ≤ #(∂^[k] 𝒜) := by
+    #(∂ ^[k] 𝒞) ≤ #(∂ ^[k] 𝒜) := by
```
Comment (grunweg) [inline Mathlib/Combinatorics/SetFamily/KruskalKatona.lean]: I'm not sure if this is how the author meant it. @YaelDillies Do you know (or know the author and can ask them)?

**Review by grunweg — COMMENTED** [review]
Some comments on perhaps the first third of the PR.

File: Mathlib/Combinatorics/Matroid/Basic.lean (hunk 1 above)
Comment (harahu) [reply Mathlib/Combinatorics/Matroid/Basic.lean]: It probably should. Not sure why this was left out. Added now, though.

File: Mathlib/Combinatorics/SetFamily/KruskalKatona.lean (hunk 2 above)
Comment (harahu) [reply Mathlib/Combinatorics/SetFamily/KruskalKatona.lean]: I decided to revert this change for now, in order to get the other changes landed faster. Hope that is fine with you.

File: Mathlib/Combinatorics/Additive/VerySmallDoubling.lean [hunk 3]
```diff
@@ -633,8 +633,8 @@ private lemma exists_nonempty_isFragment (hK : K < 1) (hS : S.Nonempty) :
       _ = (κ + 1) / ((κ + 1) / (1 - K)) * ((κ + 1) / (1 - K)) := by field
       _ < (κ + 1) / ((κ + 1) / (1 - K)) * (t + 1) := by gcongr; exact Nat.lt_floor_add_one _
       _ = (1 - K) * (t + 1) := by field
-      _ ≤ (1 - K) * #A      := by norm_cast; gcongr
-      _ ≤ ex A              := mul_card_le_expansion hS
+      _ ≤ (1 - K) * #A := by norm_cast; gcongr
+      _ ≤ ex A := mul_card_le_expansion hS
```
Comment (grunweg) [inline Mathlib/Combinatorics/Additive/VerySmallDoubling.lean]: Manual alignment: please revert for now

File: Mathlib/Combinatorics/Additive/VerySmallDoubling.lean [hunk 4]
```diff
@@ -738,35 +738,35 @@ theorem card_mul_finset_lt_two {ε : ℝ} (hε₀ : 0 < ε) (hε₁ : ε ≤ 1)
...
+      _ = (1 - ε / 2) * #S := by linarith
   refine ⟨H, inferInstance, Z, ?cardH, ?cardZ, by
     simpa only [hHZS] using Set.subset_mul_right _ H.one_mem⟩
   -- Bound on `#H` follows easily from the previous calculation.
   case cardH =>
     rw [← mul_le_mul_iff_right₀ (a := ε / 2) (by positivity)]
     calc
             ε / 2 * (Fintype.card H)
-        _ = ε / 2 * #(H : Set G).toFinset   := by
+        _ = ε / 2 * #(H : Set G).toFinset := by
```
Comment (grunweg) [inline Mathlib/Combinatorics/Additive/VerySmallDoubling.lean]: ditto

File: Mathlib/Combinatorics/Additive/VerySmallDoubling.lean [hunk 5]
```diff
@@ -738,35 +738,35 @@ theorem card_mul_finset_lt_two {ε : ℝ} (hε₀ : 0 < ε) (hε₁ : ε ≤ 1)
...
           simp only [Set.toFinset_card, SetLike.coe_sort_coe]
         _ = (1 - K) * #(H : Set G).toFinset := by ring
-        _ ≤ ex (Set.toFinset H)             := mul_card_le_expansion hS
-        _ ≤ (1 - ε / 2) * #S                := calc₁
-        _ = ε / 2 * ((2 / ε - 1) * #S)      := by field
+        _ ≤ ex (Set.toFinset H) := mul_card_le_expansion hS
```
Comment (grunweg) [inline Mathlib/Combinatorics/Additive/VerySmallDoubling.lean]: ditto

File: Mathlib/Combinatorics/Additive/VerySmallDoubling.lean [hunk 6]
```diff
@@ -738,35 +738,35 @@ theorem card_mul_finset_lt_two {ε : ℝ} (hε₀ : 0 < ε) (hε₁ : ε ≤ 1)
...
+        _ ≤ (1 - ε / 2) * #S := calc₁
+        _ = ε / 2 * ((2 / ε - 1) * #S) := by field
   -- To show the bound on `#Z`, we note that `#Z = #(HS) / #H` and show `#(HS) ≤ (2 / ε - 1) * #H`.
   case cardZ =>
     calc
           (#Z : ℝ)
-      _ = #(H : Set G).toFinset * #Z / #(H : Set G).toFinset          := by field
```
Comment (grunweg) [inline Mathlib/Combinatorics/Additive/VerySmallDoubling.lean:763]: ditto

File: Mathlib/Combinatorics/Additive/VerySmallDoubling.lean [hunk 7]
```diff
@@ -778,7 +778,7 @@ theorem card_mul_finset_lt_two {ε : ℝ} (hε₀ : 0 < ε) (hε₁ : ε ≤ 1)
     calc
           (#(Set.toFinset H * S) : ℝ)
       _ = K * #(H : Set G).toFinset + (#(Set.toFinset H * S) - K * #(H : Set G).toFinset) := by ring
-      _ = K * #(H : Set G).toFinset + ex (Set.toFinset H)                 := rfl
```
Comment (grunweg) [inline Mathlib/Combinatorics/Additive/VerySmallDoubling.lean:781]: ... all the way to here

File: Mathlib/Combinatorics/SetFamily/LYM.lean [hunk 8]
```diff
@@ -136,13 +136,13 @@ variable (𝒜 k)
 
 theorem sized_falling : (falling k 𝒜 : Set (Finset α)).Sized k := fun _ hs => (mem_falling.1 hs).2
 
-theorem slice_subset_falling : 𝒜 # k ⊆ falling k 𝒜 := fun s hs =>
+theorem slice_subset_falling : 𝒜 #k ⊆ falling k 𝒜 := fun s hs =>
```
Comment (grunweg) [inline Mathlib/Combinatorics/SetFamily/LYM.lean]: Can you revert all these changes for now? Let's consider these in the second round

**Review by grunweg — COMMENTED** [review]
Made it through the diff: just a few ones more to revert

File: Mathlib/Combinatorics/SetFamily/LYM.lean (hunk 8 above)
Comment (harahu) [reply Mathlib/Combinatorics/SetFamily/LYM.lean]: Done

File: Mathlib/Combinatorics/Additive/VerySmallDoubling.lean (hunk 7 above)
Comment (harahu) [reply Mathlib/Combinatorics/Additive/VerySmallDoubling.lean:781]: Done

File: Mathlib/Combinatorics/Additive/VerySmallDoubling.lean (hunk 6 above)
Comment (harahu) [reply Mathlib/Combinatorics/Additive/VerySmallDoubling.lean:763]: Done

File: Mathlib/Combinatorics/Additive/VerySmallDoubling.lean (hunk 5 above)
Comment (harahu) [reply Mathlib/Combinatorics/Additive/VerySmallDoubling.lean]: Done

File: Mathlib/Combinatorics/Additive/VerySmallDoubling.lean (hunk 4 above)
Comment (harahu) [reply Mathlib/Combinatorics/Additive/VerySmallDoubling.lean]: Done

File: Mathlib/Combinatorics/Additive/VerySmallDoubling.lean (hunk 3 above)
Comment (harahu) [reply Mathlib/Combinatorics/Additive/VerySmallDoubling.lean]: Done

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
